US05488152
An initial charge comprising a mixture of 7.6 g of water, 2.1 g of lithium hydroxide hydrate, 10 g of trifluoroethanol and 2.2 g (10 mmol) of tetrafluorophthalic anhydride is heated at 70° C. for 96 hours, after which the content of tetrafluorophthalic anhydride has fallen to below 1% (GC). The procedure described in Example 3 is then followed to give 1.4 g (5.1 mmol, corresponding to 51%) of 3-trifluoroethoxy-2,4,5-trifluorobenzoic acid.

reactant | lithium hydroxide hydrate | 2.1 g | O.[OH-].[Li+]
reactant | trifluoroethanol | 10 g | C(C(F)(F)F)O | C2H3F3O
reactant | tetrafluorophthalic anhydride | 10 mmol, 2.2 g | FC=1C(=C(C(=C2C1C(=O)OC2=O)F)F)F | C8F4O3
solvent | water | 7.6 g | O | H2O
product | 3-trifluoroethoxy-2,4,5-trifluorobenzoic acid | 5.1 mmol, 1.4 g, 51% | FC(COC=1C(=C(C(=O)O)C=C(C1F)F)F)(F)F | C9H4F6O3
